US08211908B2
To a solution of 0.095 g of 7-amino-1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-1,5-naphthyridin-2(1H)-one in 3 mL of ethanol and 2 mL of ethyl acetate, 4 mL of a 2 mol/L hydrogen chloride/ethanol solution was added at room temperature, and the mixture was stirred at room temperature for 20 minutes, and the solvent was distilled off under reduced pressure. To the residue, 8 mL of diethyl ether was added, the residue was suspended therein, and the solid was filtered off to obtain 0.41 g of 7-amino-1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-1,5-naphthyridin-2(1H)-one hydrochloride as a yellow solid.

reactant | 7-amino-1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-1,5-naphthyridin-2(1H)-one | 0.095 g | NC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)NCC1=CC2=C(C=N1)OCCO2)=O | C23H28N6O3
reactant | hydrogen chloride ethanol | 2 mol/L | Cl.C(C)O
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 7-amino-1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-1,5-naphthyridin-2(1H)-one hydrochloride | 0.41 g | Cl.NC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)NCC1=CC2=C(C=N1)OCCO2)=O | InChI=1S/C23H28N6O3.ClH/c24-16-11-20-19(27-13-16)1-2-23(30)29(20)8-7-28-5-3-17(4-6-28)25-14-18-12-21-22(15-26-18)32-10-9-31-21;/h1-2,11-13,15,17,25H,3-10,14,24H2;1H
